US05219852
N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine
Prepared analogously to Example 3 by reaction of 2-trifluoromethyl-4-bromoacetylthiazole and 2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethylamine, followed by reduction and purification of the base on a silica gel column using methylene chloride/methanol=9:1 as eluant.

reactant | 2-trifluoromethyl-4-bromoacetylthiazole | FC(C=1SC=C(N1)C(CBr)=O)(F)F | C6H3BrF3NOS
reactant | 2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethylamine | CNC(=O)COC1=CC=C(C=C1)CC(C)N | C12H18N2O2
product | N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | CNC(=O)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C18H22F3N3O3S
